US07220777B2
The crude 7-nitro-chroman-2-one (1.1 g, approx. 4.2 mmol) was dissolved in tetrahydrofuran (15 ml). Pyrrolidine (0.35 ml) was added and the reaction mixture stirred for 1 hour. The solution was adsorbed onto silica and eluted using methanol in dichloromethane. 3-(2-hydroxy-4-nitrophenyl)-1-pyrrolidin-1-yl-propan-1-one was obtained as a brown solid (900 mg, 3.40 mmol);

reactant | 7-nitro-chroman-2-one | approx. 4.2 mmol, 1.1 g | [N+](=O)([O-])C1=CC=C2CCC(OC2=C1)=O | C9H7NO4
reactant | Pyrrolidine | 0.35 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 3-(2-hydroxy-4-nitrophenyl)-1-pyrrolidin-1-yl-propan-1-one | OC1=C(C=CC(=C1)[N+](=O)[O-])CCC(=O)N1CCCC1 | C13H16N2O4
